US08802064B2
6-Bromo-1-hydroxyisoquinoline (150 mg, 0.67 mmol, 1.0 equiv), tetrabutylammonium bromide (25 mg, 0.07 mmol, 0.1 equiv), and 1-bromo-2-phenylpropane (160 uL, 0.8 mmol, 1.2 equiv) were combined in toluene (10 mL) and treated with 50% aq. NaOH (2 mL), and the resulting mixture was stirred rapidly and heated at 70° C. After heating for an additional 14 hours, the mixture was diluted with diethyl ether and washed with water and brine. The organic phase was dried over Na2SO4 and concentrated. Purification of the residue using flash silica gel chromatography (gradient of 2-15% ethyl acetate/hexanes) gave 6-bromo-2-(1-phenyl-2-propyl)-isoquinolin-1-one (74 mg, 0.22 mmol, 32%) as a colorless oil. This isoquinolinone (74 mg, 0.22 mmol) was converted, via Methods 1 and 2, to a 1:1 mixture of compound 6 and 6-hydroxy-2-(1-phenyl-2-propyl)-isoquinolin-1-one that was isolated as 44 mg of a white solid (33% of 6). [M-H]-=306.1 m/z. Activity: B

reactant | 6-Bromo-1-hydroxyisoquinoline | 0.67 mmol, 150 mg, 1.0 equiv | BrC=1C=C2C=CN=C(C2=CC1)O | C9H6BrNO
reactant | 1-bromo-2-phenylpropane | 0.8 mmol, 160 uL, 1.2 equiv | BrCC(C)C1=CC=CC=C1 | C9H11Br
reactant | NaOH | 2 mL | [OH-].[Na+]
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.07 mmol, 25 mg, 0.1 equiv | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-bromo-2-(1-phenyl-2-propyl)-isoquinolin-1-one | 0.22 mmol, 74 mg, 32% | BrC=1C=C2C=CN(C(C2=CC1)=O)C(CC1=CC=CC=C1)C | C18H16BrNO
